US07795283B2
ii) 8-(4,4,5,5-Tetramethyl-1,3,2-dioxaborolan-2-yl)-1,4-dioxaspiro[4.5]dec-7-ene
To a stirred solution of 1,4-dioxaspiro[4.5]dec-7-en-8-yl trifluoromethanesulphonate prepared as above (11.18 g, 38.79 mmol) in dry dioxane (200 mL) was added bis(pinacolato)diboron (10.8 g, 42.67 mmol), Pd(dppf)2Cl2DCM ([1,1′-bis(diphenylphosphino(ferrocene)]dichloropalladium(II), complex with DCM (1:1) (951 mg, 1.16 mmol), bis(diphenylphosphino)ferrocene (646 mg, 1.16 mmol) and potassium acetate (11.4 g, 0.116 mol). The reaction mixture was degassed by bubbling nitrogen through it for 15 minutes then heated to 80° C. for 3 hours. The reaction mixture was allowed to cool, the solvent removed and the residue was partitioned between EtOAc (200 mL) and water (200 mL), the organic phase was washed with brine (200 mL) and aqueous extracts were combined and reextracted with EtOAc (200 mL). The organic washings were combined, dried (MgSO4) and concentrated under reduced pressure to leave an oil. This was dissolved in DCM-isohexane (1:1, 20 mL) and the filtrate purified on a 120 g SiliCycle cartridge, eluting with 50%-100% DCM/isohexane to give the title compound (8.4 g, 81%); 1H NMR (CDCl3) δ 1.25 (s, 12H), 1.71-1.75 (m, 2H), 2.34-2.37 (m, 4H), 3.98 (s, 4H), 6.48 (s, 1H); GCMS EI 266 M+.

reactant | 1,4-dioxaspiro[4.5]dec-7-en-8-yl trifluoromethanesulphonate | FC(S(=O)(=O)OC1=CCC2(OCCO2)CC1)(F)F | C9H11F3O5S
reactant | bis(pinacolato)diboron | 42.67 mmol, 10.8 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | DCM | 1.16 mmol, 951 mg | C(Cl)Cl | CH2Cl2
reactant | potassium acetate | 0.116 mol, 11.4 g | C(C)(=O)[O-].[K+]
solvent | dioxane | 200 mL | O1CCOCC1 | C4H8O2
solvent | DCM isohexane | 20 mL | C(Cl)Cl.CCCC(C)C
catalyst | bis(diphenylphosphino)ferrocene | 1.16 mmol, 646 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)[C-]1C=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
product | 8-(4,4,5,5-Tetramethyl-1,3,2-dioxaborolan-2-yl)-1,4-dioxaspiro[4.5]dec-7-ene | 8.4 g, 81% | CC1(OB(OC1(C)C)C1=CCC2(OCCO2)CC1)C | C14H23BO4
